US20010018532A1
(2S,3S)-1-Acetoxy-3-(t-butoxycarbonylamino)-2-hydroxy-4-phenylbutane
A mixture composed of 2.0 mmol (0.599 g) of (2S,3S)-3-(t-butoxycarbonylamino)-1-chloro-2-hydroxy-4-phenylbutane, 0.1 mmol (0.032 g) of tetrabutylammonium bromide, 5.0 mmol (0.49 g) of potassium acetate and 10 ml of acetonitrile was stirred under reflux for 50 hours. Thereafter, the solvent was distilled off under reduced pressure, 20 ml of water and 20 ml of ethyl acetate were added, and the organic layer was separated, dried over sodium sulfate, filtered and concentrated under reduced pressure to give a crude product. Quantitative analysis was curried out by high performance liquid chromatography using ethylbenzene as an internal standard. Thus was obtained 0.289 g (45%) of the title compound.

reactant | (2S,3S)-3-(t-butoxycarbonylamino)-1-chloro-2-hydroxy-4-phenylbutane | 2.0 mmol, 0.599 g | C(C)(C)(C)OC(=O)N[C@H]([C@@H](CCl)O)CC1=CC=CC=C1 | C15H22ClNO3
reactant | potassium acetate | 5.0 mmol, 0.49 g | C(C)(=O)[O-].[K+]
reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
catalyst | tetrabutylammonium bromide | 0.1 mmol, 0.032 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2S,3S)-1-Acetoxy-3-(t-butoxycarbonylamino)-2-hydroxy-4-phenylbutane | 0.289 g, 45% | C(C)(=O)OC[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O | C17H25NO5
